US08629147B2
2-Amino-3-nitro-benzoic acid sodium salt
A suspension of 2-amino-3-nitro-benzoic acid methyl ester (785 mg, 4 mmol) and sodium hydroxide (194 mg, 4.4 mmol) in mixed solvent of EtOH (2 mL) and water (2 mL) was heated at 80° C. for 5 h. After it was cooled to the room temperature, the red colored precipitate was formed and dried at 40° C. under reduced pressure to afford the crude product.

reactant | 2-amino-3-nitro-benzoic acid methyl ester | 4 mmol, 785 mg | COC(C1=C(C(=CC=C1)[N+](=O)[O-])N)=O | C8H8N2O4
reactant | sodium hydroxide | 4.4 mmol, 194 mg | [OH-].[Na+]
reactant | EtOH | 2 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
product | 2-Amino-3-nitro-benzoic acid sodium salt | [Na+].NC1=C(C(=O)[O-])C=CC=C1[N+](=O)[O-] | InChI=1S/C7H6N2O4.Na/c8-6-4(7(10)11)2-1-3-5(6)9(12)13;/h1-3H,8H2,(H,10,11);/q;+1/p-1
